US08895549B2
A mixture of N-[8-({(2R)-3-[(2R,6S)-2,6-dimethylmorpholin-4-yl]-2-hydroxypropyl}oxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]amine (2.02 g, 5.01 mmol) and nicotinic acid (0.80 g, 6.51 mmol, 1.3 equiv) in DMF (139 mL) was treated with PyBOP (3.39 g, 6.51 mmol, 1.3 equiv.) followed by N,N-diisopropylethylamine (3.50 mL, 20.0 mmol, 4.0 equiv.) slowly leading to a clear solution. The mixture was stirred at room temperature for 24 h. The resulting solids were filtered and washed with DMF, H2O, and MeOH, then dried at 60° C. under reduced pressure to give N-[8-({(2R)-3-[(2R,6S)-2,6-dimethylmorpholin-4-yl]-2-hydroxypropyl}oxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyridine-3-carboxamide (1.64 g, 64%): TLC (9:1 CH2Cl2/MeOH+1% NH4OH in MeOH)Rf 0.40; 1H NMR (DMSO-d6+1 drop TFA-d) δ 1.15 (d, J=9.5 Hz, 3H), 1.16 (d, J=9.5 Hz, 3H), 2.76 (t, J=11.2 Hz, 1H), 2.83 (t, J=11.4 Hz, 1H), 3.26-3.38 (m, 2H), 3.50-3.58 (m, 2H), 3.86-3.93 (m, 1H), 3.95-4.02 (m, 1H), 4.08 (s, 3H), 4.26-4.33 (m, 4H), 4.50 (br s, 1H), 4.61 (app t, J=10.7 Hz, 2H), 7.54 (d, J=9.1 Hz, 1H), 7.96 (dd, J=5.7, 7.6 Hz, 1H), 8.09 (d, J=9.1 Hz, 1H), 8.92 (d, J=7.9 Hz, 1H), 9.01 (d, J=4.1 Hz, 1H), 9.53 (s, 1H); mass spectrum m/z 507 ((M−1)−, 100%), 509 ((M+1)+, 24%).

reactant | N-[8-({(2R)-3-[(2R,6S)-2,6-dimethylmorpholin-4-yl]-2-hydroxypropyl}oxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]amine | 5.01 mmol, 2.02 g | C[C@@H]1CN(C[C@@H](O1)C)C[C@H](COC=1C=CC=2C=3N(C(=NC2C1OC)N)CCN3)O | C20H29N5O4
reactant | nicotinic acid | 6.51 mmol, 0.80 g, 1.3 equiv | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | PyBOP | 6.51 mmol, 3.39 g, 1.3 equiv. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 20.0 mmol, 3.50 mL, 4.0 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 139 mL | CN(C)C=O | C3H7NO
product | N-[8-({(2R)-3-[(2R,6S)-2,6-dimethylmorpholin-4-yl]-2-hydroxypropyl}oxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]pyridine-3-carboxamide | 1.64 g, 64% | C[C@@H]1CN(C[C@@H](O1)C)C[C@H](COC=1C=CC=2C=3N(C(=NC2C1OC)NC(=O)C=1C=NC=CC1)CCN3)O | C26H32N6O5
